US06573267B2
A mixture of 12.82 g (0.058 mole) of 3-(2-naphthalenoyl)-1H-pyrrole, 7 mL (0.087 mole) of chloroacetyl chloride and 7.7 g (0.12 mole) of aluminum chloride in 500 mL of 1,2-dichloroethane was stirred at room temperature for 1 h. The reaction mixture was heated to reflux for 3 h. Another 7 g of aluminum chloride was added and refluxing continued for 1 h. After cooling, the reaction mixture was poured into 2 N HCl/ice, the organics were separated, washed with water, NaHCO3, water, brine and dried (Na2SO4). The solvent was evaporated in vacuo and recrystallized from toluene to give 13.9 g (81%) of 2-chloro-1-[4-(2-naphthalenoyl)-1H-pyrrol-2-yl]ethanone. mp 175-177° C. CIMS m/z 299 (MH+). 1H NMR (300 MHz, CDCl3) δ 8.4 (Ar, 1H); 8.0-7.85 (Ar, 4H); 7.7-7.5 (Ar, 4H); 4.6 (s, 2H).

reactant | 3-(2-naphthalenoyl)-1H-pyrrole | 0.058 mole, 12.82 g | C1=C(C=CC2=CC=CC=C12)C(=O)C1=CNC=C1 | C15H11NO
reactant | chloroacetyl chloride | 0.087 mole, 7 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminum chloride | 0.12 mole, 7.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminum chloride | 7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 500 mL | ClCCCl | C2H4Cl2
product | 2-chloro-1-[4-(2-naphthalenoyl)-1H-pyrrol-2-yl]ethanone | 13.9 g, 81% | ClCC(=O)C=1NC=C(C1)C(=O)C1=CC2=CC=CC=C2C=C1 | C17H12ClNO2
